US08198453B2
(R)-tert-butyl 3-((R)-(5-chloro-2-methylphenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate (8.4 g, 18.3 mmol) was dissolved in anhydrous DMF (150 mL), solid NaN3 (3.56 g, 54.8 mmol.) was added and the reaction mixture was heated to 60° C. for overnight. The reaction mixture was cooled to rt and diluted with EtOAc (500 mL), the organic phase was washed with water (5×50 mL) and brine (100 mL), dried over Na2SO4 and concentrated in vacuo to give (R)-tert-butyl 3-((R)-(2-azidoethoxy)(5-chloro-2-methylphenyl)methyl)piperidine-1-carboxylate (7 g).

reactant | (R)-tert-butyl 3-((R)-(5-chloro-2-methylphenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate | 18.3 mmol, 8.4 g | ClC=1C=CC(=C(C1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C)C | C21H32ClNO6S
reactant | NaN3 | 54.8 mmol, 3.56 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 3-((R)-(2-azidoethoxy)(5-chloro-2-methylphenyl)methyl)piperidine-1-carboxylate | 7 g | N(=[N+]=[N-])CCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)Cl)C | C20H29ClN4O3
